### PR TITLE
Additive Unary CBPV Metatheory

### PR DESCRIPTION
**Pull request by maxsnew**
Full gluing yoga for binary and nullary computation products, value coproducts and value products.

I tried to get something reasonable but haven't attempted to improve the definitional behavior yet. Leaving that for a future PR.

The metatheory proceeds along similar lines to the multiplicative case: 
1. A computation product is a *vertical* product
2. For the eliminator we define a notion of product displayed over a vertical product.
3. For the vertical version, we can just use vertical products and cartesian lifts, and re-use existing reindexing theorems.
4. We prove a vertical to displayed theorem that looks very similar to the ones for our early displayed/vertical products.
5. We prove that our two models (SET and StateAlg) have these structures, which in this case is very straightforward, and a local eliminator spits out our canonicity result.

The canonicity result can also now be stated non-trivially for an empty signature since unit and boolean are definable using additive structure.

### CODE REVIEW

**Comment by maxsnew** [comment]
The most important part is
Cubical.Categories.Displayed.CBPV.Unary.Additive, which adds the
definitions of base, vertical and displayed additive structure as well
as vertical to displayed constructions. Of these, the "displayed over
vertical" product presheaf is defined in
Cubical/Categories/Displayed/Presheaf/Uncurried/Constructions.agda in
a very similar way to the displayed products we had before. This
required a few new definitions on presheaves.

All of this gets instantiated in the obvious way: Added syntax for
pure and state-enriched Unary CBPV with multiplicative and additive
connectives, and extended the Set model and the State algebra model
with the appropriate additive connectives.

There's a few more straightforward refactors in there as well:
1. Moved some files around to be more future-proof to adding variants
2. Refactored state algebras so that the categories of algebras and
   displayed algebras are strictly unital and associative, at the cost
   of the eliminator being a little more complicated.

File: Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda [hunk 1]
```diff
@@ -0,0 +1,677 @@
...
+  StateAlgCBPVIdR ℓ {x = 𝓒 , A} {y = 𝓒 , B} f =
+    Eq.refl
+
+  StateAlgCBPVAssoc : ∀ ℓ →
+    EqPsh.ReprEqAssoc (∫C (StateAlgCBPV {ℓ = ℓ} .fst))
+  StateAlgCBPVAssoc ℓ (𝓥 , A)
+    {c = 𝓥 , W} {c' = 𝓥 , X} {c'' = 𝓥 , Y}
+    _ _ _ _ Eq.refl = Eq.refl
+  StateAlgCBPVAssoc ℓ (𝓒 , B)
+    {c = 𝓥 , W} {c' = 𝓥 , X} {c'' = 𝓥 , Y}
```
Comment (stschaef) [inline Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda:188]: I find the `\mathcal` letters hard to distinguish from the ordinary ones

File: Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda [hunk 2]
```diff
@@ -0,0 +1,677 @@
...
+import Cubical.Categories.Displayed.Presheaf.Uncurried.Eq.Sets as EqSET
+open import Cubical.Categories.Displayed.CBPV.Unary.Additive
+open import Cubical.Categories.Displayed.CBPV.Unary.Instances.StateAlg.Base
+open import Cubical.Categories.Displayed.CBPV.Unary.Instances.StateAlg.Vertical
+
+private
+  variable
+    ℓ : Level
+
+StateAlgTerminal : StateAlgebra ℓ
```
Comment (stschaef) [inline Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda:46]: if using "terminal" this should probably be proven to be a terminal object

File: Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda [hunk 3]
```diff
@@ -0,0 +1,677 @@
...
+StateAlgTerminal .fst = Unit* , isSetUnit*
+StateAlgTerminal .snd .StateAlg.rd _ _ = tt*
+StateAlgTerminal .snd .StateAlg.wt _ _ = tt*
+StateAlgTerminal .snd .StateAlg.wt-rd _ _ _ = refl
+StateAlgTerminal .snd .StateAlg.rd-wt _ = refl
+StateAlgTerminal .snd .StateAlg.wt-wt _ _ _ = refl
+
+StateAlgProduct : StateAlgebra ℓ → StateAlgebra ℓ → StateAlgebra ℓ
```
Comment (stschaef) [inline Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda:54]: similar to the above terminal comment, I think the usage of the term "product" should coincide with showing inhabitation of the universal property in the category of state algebras

File: Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda (hunk 1 above)
Comment (stschaef) [reply Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda:188]: This is probably font-dependent, but at least my font locally + on GitHub these are hard to read

File: Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda [hunk 4]
```diff
@@ -0,0 +1,677 @@
...
+    proj₂C .fst = snd
+    proj₂C .snd .Homo.rd-hom _ _ _ p i = p i .snd
+    proj₂C .snd .Homo.wt-hom _ _ _ p i = p i .snd
+
+    ue : EqPsh.UEⱽ
+      ((EqPsh._[-][-,_] C B₁) EqPsh.×ⱽPsh (EqPsh._[-][-,_] C B₂))
+      KIND-idR
+    ue .EqPsh.UEⱽ.v = StateAlgProduct B₁ B₂
+    ue .EqPsh.UEⱽ.e .fst = proj₁C
+    ue .EqPsh.UEⱽ.e .snd = proj₂C
```
Comment (stschaef) [inline Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda:629]: In response to my above comment on showing the universal property of the product for "StateAlgProduct": it seems like you're doing that here, so you can probably just disregard the earlier comments

File: Cubical/Categories/Displayed/CBPV/Unary/Instances/Sets.agda [hunk 5]
```diff
@@ -90,3 +243,77 @@ SetCBPVⱽ : ∀ ℓ → MultCBPVCatⱽ (SetCBPV ℓ) (ℓ-suc ℓ) ℓ
 SetCBPVⱽ ℓ .fst = SetCBPVᴰ ℓ
 SetCBPVⱽ ℓ .snd .fst = SetCBPV-Uⱽ ℓ
 SetCBPVⱽ ℓ .snd .snd = SetCBPV-Fⱽ ℓ
+
+private
+  SETᴰCartesianⱽ : ∀ ℓ → CartesianCategoryⱽ (SET ℓ) (ℓ-suc ℓ) ℓ
+  SETᴰCartesianⱽ ℓ =
+    EqCCⱽ→CCⱽ EqSET.SetAssoc (SETᴰ ℓ ℓ) EqSET.isCartesianⱽSETᴰ
```
Comment (stschaef) [inline Cubical/Categories/Displayed/CBPV/Unary/Instances/Sets.agda]: Is this not already in `Displayed.Instances.Sets.Properties`?

File: Cubical/Categories/Displayed/Presheaf/Uncurried/Base.agda [hunk 6]
```diff
@@ -284,13 +284,27 @@ module PresheafᴰNotation {C : Category ℓC ℓC'}
...
+
 module _ {C : Category ℓC ℓC'} {Cᴰ : Categoryᴰ C ℓCᴰ ℓCᴰ'}
   {P : Presheaf C ℓP}
   (Pᴰ : Presheafᴰ P Cᴰ ℓPᴰ)
   (Qᴰ : Presheafᴰ P Cᴰ ℓQᴰ) where
   PshHomⱽ : Type _
   PshHomⱽ = PshHom Pᴰ Qᴰ
 
+  PshHomStrictⱽ : Type _
+  PshHomStrictⱽ = PshHomStrict Pᴰ Qᴰ
```
Comment (stschaef) [inline Cubical/Categories/Displayed/Presheaf/Uncurried/Base.agda:306]: good

File: Cubical/Categories/Displayed/Presheaf/Uncurried/Constructions.agda [hunk 7]
```diff
@@ -478,3 +477,59 @@ module _ {C : Category ℓC ℓC'}(Cᴰ : Categoryᴰ C ℓCᴰ ℓCᴰ')
...
+      ×ⱽPsh
+      reindPshᴰNatTransStrict ∫×ⱽπ₂Strict Qᴰᴰ
+
+    private
+      module Pᴰᴰ = PresheafᴰNotation Cᴰᴰ Pᴰ.∫ Pᴰᴰ
+      module Qᴰᴰ = PresheafᴰNotation Cᴰᴰ Qᴰ.∫ Qᴰᴰ
+      module Pᴰᴰ×Qᴰᴰ = PresheafᴰNotation Cᴰᴰ Pᴰ×Qᴰ.∫
+        _×ⱽᴰPsh_
+
+    test×ⱽᴰPsh : ∀ {Γ x}
```
Comment (stschaef) [inline Cubical/Categories/Displayed/Presheaf/Uncurried/Constructions.agda]: the most minor of nitpicks: tests like this should probably be part of the `private` block

File: Cubical/Categories/Displayed/Presheaf/Uncurried/Constructions.agda [hunk 8]
```diff
@@ -478,3 +477,59 @@ module _ {C : Category ℓC ℓC'}(Cᴰ : Categoryᴰ C ℓCᴰ ℓCᴰ')
...
+    (Pᴰᴰ : Presheafᴰᴰ Pᴰ Cᴰᴰ ℓPᴰᴰ)
+    (Qᴰᴰ : Presheafᴰᴰ Qᴰ Cᴰᴰ ℓQᴰᴰ)
+    where
+    private
+      module P = PresheafNotation P
+      module Pᴰ = PresheafᴰNotation Cᴰ P Pᴰ
+      module Qᴰ = PresheafᴰNotation Cᴰ P Qᴰ
+      module Pᴰ×Qᴰ = PresheafᴰNotation Cᴰ P (Pᴰ ×ⱽPsh Qᴰ)
+
+    -- Unfortunately ∫PshHomStrict does not have the required definitional
```
Comment (stschaef) [inline Cubical/Categories/Displayed/Presheaf/Uncurried/Constructions.agda:498]: what is the desired behavior here?

**Review by stschaef — APPROVED** [review]
some minor nitpicks and comments, but overall this looks good to me!

File: Cubical/Categories/Displayed/Presheaf/Uncurried/Constructions.agda (hunk 8 above)
Comment (maxsnew) [reply Cubical/Categories/Displayed/Presheaf/Uncurried/Constructions.agda:498]: The desired behavior is the manual definition I give after this comment

File: Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda (hunk 1 above)
Comment (maxsnew) [reply Cubical/Categories/Displayed/CBPV/Unary/Instances/StateAlg/Additive.agda:188]: Move bikeshedding to its own Zulip thread plz

File: Cubical/Categories/Displayed/Presheaf/Uncurried/Constructions.agda (hunk 8 above)
Comment (stschaef) [reply Cubical/Categories/Displayed/Presheaf/Uncurried/Constructions.agda:498]: Sure, but I'm not quite sure what you mean. Was the hope that these projections would exist for free/ follow from the first projection of displayed presheaves `Pᴰ×Qᴰ -> Pᴰ`?

Comment (maxsnew) [reply Cubical/Categories/Displayed/Presheaf/Uncurried/Constructions.agda:498]: yes exactly
